US05559106
1-[(Diethoxyphosphoryl)methyl]-8-nitro-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one
Powdered potassium nitrate (1.82 g, 18 mmol) was added to a stirred solution of 1-[(diethoxyphosphoryl)methyl]-7-trifluoromethyl[1,2,4]triazolo [4,3-a]quinoxalin-4(5H)-one (3.7 g, 9.15 mmol) in 50 ml of conc. sulfuric acid at 0° C. The mixture was stirred at room temperature overnight, and quenched in ice/water (300 g). The aqueous phase was extracted with ethyl acetate (5×100 ml), and the combined organic extracts were dried with anhydrous sodium sulfate, and evaporated. The residue was triturated with ether to give 3.25 g (79%) of the title compound, m.p. 222°-228° C.; 1H-NMR (DMSO-d6): δ 1.20 (t, 6H), 4.10 (quint, 4H), 4.39 (d, 2H), 7.88 (s, 1H), 8.96 (s, 1H), 12.67 (br s, 1H).

reactant | potassium nitrate | 18 mmol, 1.82 g | [N+](=O)([O-])[O-].[K+]
reactant | 1-[(diethoxyphosphoryl)methyl]-7-trifluoromethyl[1,2,4]triazolo [4,3-a]quinoxalin-4(5H)-one | 9.15 mmol, 3.7 g | C(C)OP(=O)(OCC)CC1=NN=C2N1C1=CC=C(C=C1NC2=O)C(F)(F)F | C15H16F3N4O4P
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 1-[(Diethoxyphosphoryl)methyl]-8-nitro-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 3.25 g, 79% | C(C)OP(=O)(OCC)CC1=NN=C2N1C1=CC(=C(C=C1NC2=O)C(F)(F)F)[N+](=O)[O-] | C15H15F3N5O6P
